US08871756B2
3-[2-(1,1-Dioxido-2,3-dihydro-1,4-benzothiazepin-4(5H)-yl)-6-methylquinolin-4-yl]propan-1-amine
To a solution of 3-[2-(1,1-dioxido-2,3-dihydro-1,4-benzothiazepin-4(5H)-yl)-6-methylquinolin-4-yl]-propionamide (30 mg, 0.073 mmol) in tetrahydrofuran (2 mL) was added a solution of borane in tetrahydrofuran (1 mL, 2 M) in an ice bath. The mixture was stirred at 65° C. for 3 hours and then cooled naturally to room temperature. The reaction was quenched with methanol and the mixture was concentrated in vacuo. The residue was purified by preparative HPLC to afford 6.3 mg of the desired product. MS obsd. (ESI+) [(M+H)+] 396, 1H NMR (400 MHz, CD3OD) δ ppm 7.99 (dd, J=1.2, 8.0 Hz, 1 H), 7.88 (d, J=7.2 Hz, 1 H), 7.64-7.56 (m, 3 H), 7.45 (dd, J=6.8, 7.6 Hz, 1 H), 7.37 (dd, J=1.6, 8.4 Hz, 1 H), 7.06 (s, 1 H), 5.22 (s, 2 H), 4.57 (brs, 2 H), 3.61 (t, J=4.8 Hz, 2 H), 3.07 (t, J=8.0 Hz, 2 H), 2.94 (t, J=7.6 Hz, 2 H), 2.45 (s, 3 H), 2.04-1.96 (m, 2 H).

reactant | 3-[2-(1,1-dioxido-2,3-dihydro-1,4-benzothiazepin-4(5H)-yl)-6-methylquinolin-4-yl]-propionamide | 0.073 mmol, 30 mg | O=S1(CCN(CC2=C1C=CC=C2)C2=NC1=CC=C(C=C1C(=C2)CCC(=O)N)C)=O | C22H23N3O3S
reactant | borane | B | BH3
solvent | tetrahydrofuran | 2 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 2 M, 1 mL | O1CCCC1 | C4H8O
product | 3-[2-(1,1-Dioxido-2,3-dihydro-1,4-benzothiazepin-4(5H)-yl)-6-methylquinolin-4-yl]propan-1-amine | 6.3 mg | O=S1(CCN(CC2=C1C=CC=C2)C2=NC1=CC=C(C=C1C(=C2)CCCN)C)=O | C22H25N3O2S
